US05610303
N-(7-acetoxy-5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzylpiperidin-4-yl)acetyl]aniline (Compound II-237 in Table 1)
20 ml of chloroform and 0.65 ml of acetic anhydride were added to 0.35 g of N-(7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzylpiperidin-4-yl)acetyl]aniline, and the mixture was refluxed under heating for 4 hours. Then, the solvent was removed by distillation under reduced pressure and the obtained residue was applied to silica gel column chromatography to obtain 0.16 g of the title compound as white crystal.

reactant | acetic anhydride | 0.65 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-(7-hydroxy-5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzylpiperidin-4-yl)acetyl]aniline | 0.35 g | OC1CCC2=C1N=CN=C2NC2=CC=C(C=C2)C(CC2CCN(CC2)CC2=CC=CC=C2)=O | C27H30N4O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(7-acetoxy-5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzylpiperidin-4-yl)acetyl]aniline | 0.16 g | C(C)(=O)OC1CCC2=C1N=CN=C2NC2=CC=C(C=C2)C(CC2CCN(CC2)CC2=CC=CC=C2)=O | C29H32N4O3
